US07511144B2
Into a solution of 1.95 g (5.94 mmol) of 4-(4-methanesulfonylphenoxymethyl)-2-methylquinoline (VI-1) obtained in the above (1-1) in tetrahydrofuran (150 mL) was dropped 3.7 mL (7.43 mmol) of 2 mol/L lithium diisopropylamide solution in hexane-heptane-ethylbenzene (available from Aldrich) at −78° C. under an atmosphere of argon, followed by stirring for 1 hour. Into this solution, a solution of 1.1 g (6.54 mmol) of methyl 4-methylenecyclohexane carboxylate in tetrahydrofuran (5 mL) was dropped at −78° C., and then stirred for 4 hours. After 1 N sulfuric acid (4 mL) was added to the reaction mixture and stirred for 10 minutes, the solution was neutralized with saturated aqueous sodium bicarbonate. The reaction mixture was concentrated under a reduced pressure, and the residue was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and followed by evaporation of the solvent. The obtained residue was purified by column chromatography (silica gel 50 g, developing solvent: hexane:ethyl acetate=1:3) to give 1.67 g (yield 60.0%) of 1-(4-methylenecyclohexyl)-2-[4-(2-methylquinolin-4-ylmethoxy)benzenesulfonyl]ethanone (X-1) as a colorless crystal. Its physical properties are shown below.

reactant | lithium diisopropylamide | 7.43 mmol, 2 mol/L, 3.7 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | methyl 4-methylenecyclohexane carboxylate | 6.54 mmol, 1.1 g | C=C1CCC(CC1)C(=O)OC | C9H14O2
reactant | sulfuric acid | 1 N, 4 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | hexane heptane ethylbenzene | CCCCCC.CCCCCCC.C(C)C1=CC=CC=C1
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 1-(4-methylenecyclohexyl)-2-[4-(2-methylquinolin-4-ylmethoxy)benzenesulfonyl]ethanone | 1.67 g, yield 60.0% | C=C1CCC(CC1)C(CS(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C)=O | C26H27NO4S
